US05145869
To a solution of methyl 5-(4-acetylphenylsulfonyl)-4-(N,N-dipentylcarbamoyl)pentanoate (0.35 g) in methanol (15 ml) was added a 1N sodium hydroxide solution (1 ml). After stirring at room temperature for hours, the reaction mixture was concentrated in vacuo, acidified with a dilute hydrochloric acid, and extracted with chloroform. The organic layer was washed with water, dried over MgSO4, and evaporated at reduced pressure. The residue was recrystallized from dichloromethane-hexane to give 0.27 g of 5-(4-acetylphenylsulfonyl)-4-(N,N-dipentylcarbamoyl)pentanoic acid.

reactant | methyl 5-(4-acetylphenylsulfonyl)-4-(N,N-dipentylcarbamoyl)pentanoate | 0.35 g | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)CC(CCC(=O)OC)C(N(CCCCC)CCCCC)=O | C25H39NO6S
reactant | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 5-(4-acetylphenylsulfonyl)-4-(N,N-dipentylcarbamoyl)pentanoic acid | 0.27 g | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)CC(CCC(=O)O)C(N(CCCCC)CCCCC)=O | C24H37NO6S
